*Step response of the system:-
Vin vin 0 0.01
R1 vin va 100
R2 va v1 33.057k
Vd1 vdd 0 20
Vd2 0 -vdd 20
XU1 0 va vdd -vdd v1 LM741
R3 v1 vb 1.446k
R4 vb v2 1.446k
C1 vb v2 1n
XU2 0 vb vdd -vdd v2 LM741
R5 v2 vc 1.446k
R6 vc v3 1.446k
XU3 0 vc vdd -vdd v3 LM741
R7 v3 vd 1.446k
C2 vd vo 4n
R8 vb vo 1.446k
XU4 0 vd vdd -vdd vo LM741
.include LM741.MOD
.tran 0.00001 0.0002 UIC
.control
run
wrdata ee18btech11036.dat V(vo)
.endc
.end
