*Step response of the system:-
Vin vin 0 0.01
R1 vin vp 1k
R2 vp 0 1k
R3 vc ve 1k
R4 ve v1 1k
Vd1 vdd 0 20
Vd2 0 -vdd 20
XU1 vp ve vdd -vdd v1 LM741
R5 v1 va 100
R6 va v2 10k
C1 va v2 1.59n
XU2 0 va vdd -vdd v2 LM741
R7 v2 vb 100
R8 vb vo 1k
C2 vb vo 1.59n
R9 v0 vc 4928
R10 vc 0 10
XU4 0 vb vdd -vdd vo LM741
.include LM741.MOD
.tran 0.00001 0.0002 UIC
.control
run
wrdata ee18btech11036.dat V(vo)
.endc
.end
